US07176321B2
194 g of 3-benzoylamino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone were mixed with 400 mL of methanol, and 30 g of barium hydroxide octahydrate and 140 g of a 25% (W/V) aqueous solution of sodium hydroxide were added to the resultant mixture. After agitation of the resultant reaction mixture for 6 hours at an internal temperature of 65° C., the residual ratio of the raw material was 0.5% or less in an HPLC analysis. After the reaction mixture was cooled to 45° C., 500 mL of concentrated hydrochloric acid were added to the reaction mixture, and precipitated insoluble substances (barium chloride and sodium chloride) were eliminated by filtration. The filtrate was extracted twice with toluene, and the aqueous phase after the extraction was neutralized by adding a 25% (W/V) aqueous solution of sodium hydroxide so that the pH value of the aqueous phase became 3.5. Precipitated crystals were separated by filtration, and the obtained crystals were washed and dried to obtain 105 g of desired 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone (yield of 70.5%) as gray-white powder. The structure of the product was confirmed by 1H-NMR. Results of physical analyses are as follows.

reactant | 3-benzoylamino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone | 194 g | C(C1=CC=CC=C1)(=O)NC=1NN(C(C1N1N=CC=C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C19H12Cl3N5O2
reactant | barium hydroxide octahydrate | 30 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 500 mL | Cl | ClH
solvent | methanol | 400 mL | CO | CH4O
product | 3-amino-4-(1-pyrazolyl)-1-(2,4,6-trichlorophenyl)-5-pyrazolone | 105 g, yield of 70.5% | NC=1NN(C(C1N1N=CC=C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C12H8Cl3N5O
